US07253165B2
Synthesis of [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-(2,6-difluoro-benzyl)-amine (Scheme III, Compound 1b)
The title compound is prepared from 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene, 2,4-difluorobenzylamine, potassium carbonate and acetonitrile essentially as described above in Example 118. Purity by LC/MS=98%, [M+H]+=410.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene | BrCCCOC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C17H15BrOS
reactant | 2,4-difluorobenzylamine | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
product | [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-(2,6-difluoro-benzyl)-amine | S1C2=C(C(=C1)C1=CC=C(OCCCNCC3=C(C=CC=C3F)F)C=C1)C=CC=C2 | C24H21F2NOS
